US09079866B2
3′-Fluoro-N-(2-hydroxyethyl)-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 88 using 5-bromo-1H-pyrrolo[2,3-b]pyridine and 3′-fluoro-N-(2-hydroxyethyl)-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide. MS (ESI): mass calcd. for C21H18FN3O3S, 411.11; m/z found, 412.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.44-8.41 (m, 1H), 8.24-8.21 (m, 1H), 8.14-8.05 (dd, J=8.0, 1.3, 1H), 7.71-7.64 (m, 1H), 7.63-7.55 (m, 2H), 7.46-7.44 (d, J=3.5, 1H), 7.44-7.41 (dd, J=7.6, 1.2, 1H), 7.36-7.34 (dd, J=3.8, 1.7, 1H), 7.34-7.31 (dd, J=7.3, 1.4, 1H), 6.59-6.55 (d, J=3.5, 1H), 3.52-3.47 (t, J=5.9, 2H), 2.92-2.87 (t, J=5.9, 2H).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | 3′-fluoro-N-(2-hydroxyethyl)-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | FC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)S(=O)(=O)NCCO | C20H25BFNO5S
product | 3′-Fluoro-N-(2-hydroxyethyl)-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C=2C(=CC=CC2)S(=O)(=O)NCCO | C21H18FN3O3S
